US05082939
(RS)-3-(3-([2-(3,4-Dimethoxyphenyl)ethyl]amino]-2-hydroxypropoxy]-6-isopropylidenehydrazinopyridazine dihydrochloride
A mixture of 3-(2,3-epoxypropoxy)-6-isopropylidenehydrazinopyridazine (20 g) and 3,4-dimethoxyphenethylamine (40 ml) was stirred at 50° C for 4 hours. After cooling, the mixture was dissolved in dichloromethane (100 ml) and poured into diisopropyl ether (800 ml). After stirring for 1 hour the precipitate was collected and triturated with diisopropyl ether (400 ml). The collected solid was dissolved in ethanol (300 ml) and 5.4N hydrochloric acid (35 ml) Was added dropwise. The solvent was evaporated under vacuum, the residue was diluted with acetone (100 ml) and toluene (100 ml) and evaporated to dryness The residue was crystallised from ethanolacetone to afford 26.6 g of the title compound as a pale yellow solid. m.p. 206°-209° C. (with decomposition).

reactant | 3-(2,3-epoxypropoxy)-6-isopropylidenehydrazinopyridazine | 20 g | O1C(COC=2N=NC(=CC2)NN=C(C)C)C1 | C10H14N4O2
reactant | 3,4-dimethoxyphenethylamine | 40 ml | COC=1C=C(CCN)C=CC1OC | C10H15NO2
reactant | diisopropyl ether | 800 ml | C(C)(C)OC(C)C | C6H14O
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (RS)-3-(3-([2-(3,4-Dimethoxyphenyl)ethyl]amino]-2-hydroxypropoxy]-6-isopropylidenehydrazinopyridazine dihydrochloride | 26.6 g | Cl.Cl.COC=1C=C(C=CC1OC)CCNCC(COC=1N=NC(=CC1)NN=C(C)C)O | InChI=1S/C20H29N5O4.2ClH/c1-14(2)22-23-19-7-8-20(25-24-19)29-13-16(26)12-21-10-9-15-5-6-17(27-3)18(11-15)28-4;;/h5-8,11,16,21,26H,9-10,12-13H2,1-4H3,(H,23,24);2*1H
